US07687534B2
Step A. 4-Methoxybenzyl (3-bromophenyl)acetate
A DMF (30 mL) solution of (3-bromophenyl)acetic acid (2.5 g, 11.6 mmol), cesium carbonate (3.78 g, 11.6 mmol) and 4-methoxybenzyl chloride (1.82 g, 11.6 mmol) was stirred overnight at room temperature. The solution was then partitioned between ethyl acetate and water. The organic phase was washed with water (3×), brine and dried over magnesium sulfate. The solution was filtered, concentrated and the residue purified by silica gel chromatography using a hexanes/ethyl acetate gradient to give the title compound. 1H NMR (400 MHz, CDCl3): δ 7.43-7.39 (m, 2H); 7.29-7.24 (m, 2H); 7.20-7.16 (m, 2H); 6.90-6.86 (m, 2H); 5.07 (s, 2H); 3.81 (s, 3H); 3.60 (s, 2H). LC1 3.70 min.

reactant | (3-bromophenyl)acetic acid | 11.6 mmol, 2.5 g | BrC=1C=C(C=CC1)CC(=O)O | C8H7BrO2
reactant | cesium carbonate | 11.6 mmol, 3.78 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-methoxybenzyl chloride | 11.6 mmol, 1.82 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-Methoxybenzyl (3-bromophenyl)acetate | BrC=1C=C(C=CC1)CC(=O)OCC1=CC=C(C=C1)OC | C16H15BrO3
